US07585979B2
Preparation of 1-(4-Methoxy-Phenyl)-3-Methyl-Butan-1-One (Compound 3)
While 40 g of isovaleryl chloride and 44 g of aluminum chloride were added to 140 ml of dichloromethane and stirred, 32.6 ml of anisole were slowly added in droplets at −10° C. or lower, and stirring was continued at room temperature for 40 min. Subsequently, 36.6 ml of isovaleryl chloride were slowly added in droplets, and stirring was further continued at room temperature for 18 hr. After the reaction was completed, the resultant reaction mixture was added with 200 ml of dichloromethane, and then washed with a saturated aqueous solution of sodium bicarbonate and water, in that order, after which the dichloromethane layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure, thus obtaining 56.9 g (yield: 98.6%) of a title compound as light yellow liquid.

reactant | isovaleryl chloride | 40 g | C(CC(C)C)(=O)Cl | C5H9ClO
reactant | aluminum chloride | 44 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | anisole | 32.6 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | isovaleryl chloride | 36.6 ml | C(CC(C)C)(=O)Cl | C5H9ClO
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 140 ml | ClCCl | CH2Cl2
product | 1-(4-Methoxy-Phenyl)-3-Methyl-Butan-1-One | 56.9 g, yield: 98.6% | COC1=CC=C(C=C1)C(CC(C)C)=O | C12H16O2
